US07700655B2
(1) 5-(tert-Butyl)-1-(4-nitrophenyl)-3-(trifluoromethyl)pyrazole
Using 1,1,1-trifluoro-5,5-dimethyl-2,4-hexanedione and 4-nitrophenylhydrazine hydrochloride as the raw materials, the same operation as the Example 538(1) gave the title compound.

reactant | 1,1,1-trifluoro-5,5-dimethyl-2,4-hexanedione | FC(C(CC(C(C)(C)C)=O)=O)(F)F | C8H11F3O2
reactant | 4-nitrophenylhydrazine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)NN
product | 5-(tert-Butyl)-1-(4-nitrophenyl)-3-(trifluoromethyl)pyrazole | Yield: 94.7% | C(C)(C)(C)C1=CC(=NN1C1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H14F3N3O2
